US07728030B2
2,2,2-Trifluoro-N-[(2S*,3S*)-3-[1-(4-fluorophenyl)indazol-5-yl]oxy-4-phenoxy-butan-2-yl]acetamide
The racemate was prepared as described in Example 1 using (2RS,3RS)-3-[1-(4-fluorophenyl)indazol-5-yl]oxy-4-phenoxy-butan-2-amine (0.13 g, 0.33 mmol) and trifluoroacetic anhydride (0.14 ml, 1.0 mmol). Yield 155 mg (96%). The two enantiomers were separated by semi-preparative HPLC (ChiralpakIA, 21×250 mm, 5 μm, 20% isopropanole/80% iso-hexane). Yield of the faster eluting compound was 57 mg.

reactant | (2RS,3RS)-3-[1-(4-fluorophenyl)indazol-5-yl]oxy-4-phenoxy-butan-2-amine | 0.33 mmol, 0.13 g | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)OC(C(C)N)COC1=CC=CC=C1 | C23H22FN3O2
reactant | trifluoroacetic anhydride | 1.0 mmol, 0.14 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2,2,2-Trifluoro-N-[(2S*,3S*)-3-[1-(4-fluorophenyl)indazol-5-yl]oxy-4-phenoxy-butan-2-yl]acetamide | FC(C(=O)N[C@@H](C)[C@@H](COC1=CC=CC=C1)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F)(F)F | C25H21F4N3O3
